US07622583B2
4-Chloro-N-[5-chloro-2-(2-methanesulfonyl-benzoyl)-6-methyl-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
A mixture 4-chloro-N-[5-chloro-2-(2-methanesulfonyl-benzoyl)-6-methyl-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (40 mg, 0.07 mmol) in 4 M HCl in dioxane (2 mL), and water (1 mL) was heated at 100° C. for 4 h and then it was stirred at room temperature overnight. The reaction mixture was concentrated to dryness under reduced pressure and it was treated with aqueous NaHCO3 to adjust pH to 5-6 and extracted with EtOAc. The combined extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to provide the desired product. 1H NMR (400 MHz, CDCl3) δ 10.93 (s, 1 H), 8.21 (s, 1 H), 8.15 (s, 1 H), 7.98-7.96 (m, 2 H), 7.70-7.62 (m, 3 H), 7.33-7.31 (m, 1 H); Mass spectrum m/z: 567.4.0 (M+H).

reactant | 4-chloro-N-[5-chloro-2-(2-methanesulfonyl-benzoyl)-6-methyl-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.07 mmol, 40 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC(=C(C1)Cl)C)C(C1=C(C=CC=C1)S(=O)(=O)C)=O)C(F)(F)F | C23H19Cl2F3N2O6S2
reactant | water | 1 mL | O | H2O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-Chloro-N-[5-chloro-2-(2-methanesulfonyl-benzoyl)-6-methyl-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC(=C(C1)Cl)C)C(C1=C(C=CC=C1)S(=O)(=O)C)=O)C(F)(F)F | C21H15Cl2F3N2O5S2
